US05889002
(R)-3-sec-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide and (R)-(-)-sec-butylamine by a procedure analogous to the procedure described in example 1Bb; mp 215°-220° C. (water), 1H-NMR (DMSO-d6): δ 0.88 (t. 3H), 1.11 (d, 3H), 1.48 (m, 2H), 3.69 (m, 1H), 7.07 (s, 1H), 7.14 (br. s, 1H), 10.75 (br. s, 1H).

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | (R)-(-)-sec-butylamine | [C@@H](C)(CC)N | C4H11N
solvent | water | O | H2O
product | (R)-3-sec-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | [C@@H](C)(CC)NC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C9H12ClN3O2S2
